US09446130B2
To a solution of (E)-methyl 4-((benzhydrylimino)methyl)benzoate (67 g, 204 mmol) in THF (700 mL) was cooled to 0° C. and added dropwise NaHMDS (244 mL, 244 mmol). The mixture was stirred at this temperature for 30 minutes, and added a solution of 2,3-dichloropyrazine (33.2 g, 224 mmol) in THF (40 mL). The reaction mixture was stirred at 0° C. for 20 minutes and RT for 40 minutes. After the reaction was completed, the reaction mixture was extracted with EA and water. The organic layer was treated with 3M HCl (500 mL) for 10 minutes. The phases were separated and the organic layer was extracted with 3M HCl. The aqueous was washed with EA and then alkalified with Na2CO3 to pH=9. The aqueous solution was extracted with EA and the combined organics were dried and concentrated to give methyl 4-(amino(3-chloropyrazin-2-yl)methyl)benzoate (46 g, yield 81%).

reactant | (E)-methyl 4-((benzhydrylimino)methyl)benzoate | 204 mmol, 67 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)\N=C\C1=CC=C(C(=O)OC)C=C1 | C22H19NO2
reactant | NaHMDS | 244 mmol, 244 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2,3-dichloropyrazine | 224 mmol, 33.2 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | methyl 4-(amino(3-chloropyrazin-2-yl)methyl)benzoate | 46 g, yield 81% | NC(C1=CC=C(C(=O)OC)C=C1)C1=NC=CN=C1Cl | C13H12ClN3O2
